US06492368B1
Reaction of equimolar amounts of 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylacetic acid, methyl iodide and potassium carbonate gives methyl 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylacetate (“D”).

reactant | 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylacetic acid | CC1=NC(=NO1)C1=CC=C(C=C1)CC(=O)O | C11H10N2O3
reactant | methyl iodide | CI | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | methyl 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylacetate | CC1=NC(=NO1)C1=CC=C(C=C1)CC(=O)OC | C12H12N2O3
